US08461348B2
A mixture of 2-amino-2-thioxoethyl 2,2-dimethylpropanoate (7.38 g), 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone (7.50 g) and ethanol (150 ml) was heated under reflux for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was extracted with ethyl acetate, washed successively with diluted aqueous sodium hydrogen carbonate solution and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give crude {4-[3-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}methyl 2,2-dimethylpropanoate (about 10 g) as a colorless solid. The solid was dissolved in ethanol (100 mL) and tetrahydrofuran (100 mL), 2N aqueous sodium hydroxide solution (80 mL) was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was extracted with ethyl acetate, washed successively with diluted aqueous citric acid solution and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was washed with hexane to give the title compound (4.90 g) as pale-yellow crystals.

reactant | 2-amino-2-thioxoethyl 2,2-dimethylpropanoate | 7.38 g | CC(C(=O)OCC(=S)N)(C)C | C7H13NO2S
reactant | 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone | 7.50 g | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | {4-[3-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}methyl 2,2-dimethylpropanoate | about 10 g | CC(C(=O)OCC=1SC=C(N1)C1=CC(=CC=C1)C(F)(F)F)(C)C | C16H16F3NO2S
